US08227504B2
(2S,3R)-5-Fluoro-2-methyl-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenyl}-benzamide
(2S,3R)-2-Methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenylamine (92 mg, 0.34 mmol) was dissolved in DCM (4 mL) and pyridine (1 mL). The solution was cooled in an ice-water bath. To this solution was added a solution of 5-fluoro-2-methylbenzoyl chloride (from Alfa Aesar, 0.48 g, 2.77 mmol, 1.6 equiv.) in DCM (2 mL). The solution was stirred at r.t. for 2 h. The reaction was judged to be complete when TLC (10% MeOH in DCM) and LC/MS did not detect the SM at 274, but detected only the product peak at 410.2 and at retention time of 3.02 min. Polymer bounded diethylenetriamine (4 mmol/g, 0.12 g) was added and stirred at r.t. for 30 min., then filtered and rinsed with DCM. The solvent was evaporated to dryness, re-dissolved in DCM and NaHCO3 aqueous solution. The two layers were separated, and the aqueous layer was extracted with DCM (10 mL×2). The combined DCM extracts were successively washed with sodium bicarbonate (5 mL) and brine (5 mL×2), dried (anhydrous potassium carbonate), passed through a silica gel pad (self packed, ˜10 g), rinsed with DCM (no product) and then with 10% MeOH in DCM (contain product). The solution was concentrated in vacuo to obtain a crude product, which was purified on a silica gel column by eluting with 0 to 10% MeOH in DCM to obtain 48 mg (34% yield) of the title compound as a semi-solid. LC/MS: t=3.020 min, MS: 410.2. 1H NMR (300 MHz, CDCl3), δ (ppm): 7.49 (m, 1H), 7.23 (m, 1H), 7.11 (m, 2H), 6.41 (m, 1H), 3.70 (m, 2H), 3.57 (t, 6.2 Hz, 1H), 3.39 (m, 2H), 3.32 (m, 1H), 3.16 (m, 1H), 3.06 (m, 1H), 2.95 (m, 2H), 2.65 (m, 1H), 2.62 (s, 1H), 2.61 (s, 3H), 2.49 (m, 1H), 2.38 (s, 3H), 2.05 (m, 2H), 1.90 (m, 2H), 1.80 (m, 1H), 1.40 (d, 6.5 Hz, 3H).

reactant | (2S,3R)-2-Methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenylamine | 0.34 mmol, 92 mg | CC1=C(C=CC(=C1)N1C[C@H](CC1)CN1[C@H](CCC1)C)N | C17H27N3
reactant | 5-fluoro-2-methylbenzoyl chloride | 2.77 mmol, 0.48 g, 1.6 equiv. | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
reactant | MeOH | CO | CH4O
reactant | diethylenetriamine | 0.12 g | NCCNCCN | C4H13N3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R)-5-Fluoro-2-methyl-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenyl}-benzamide | 48 mg, 34% yield | FC=1C=CC(=C(C(=O)NC2=C(C=C(C=C2)N2C[C@H](CC2)CN2[C@H](CCC2)C)C)C1)C | C25H32FN3O
